US07405300B2
4-[3-Formyl-1-[(4-pyridin-4-yl)phenyl]-1H-indol-2-yl]-piperazine-1-carboxylic acid tert-butyl ester (68 mg, 0.141 mmol) is dissolved in dichloromethane (1 mL), treated with trifluoroacetic acid (2 mL) and stirred for 2 hr at room temperature. The solvent is removed, the resulting oil is dissolved in water, made basic to pH around 7˜8 with 20% aq sodium hydroxide and extracted with dichloromethane. The combined organic layer is washed with brine and dried over sodium sulfate, filtered and concentrated. The residue is purified by chromatography eluting with dichloromethane-0 to 10% methanol to afford 2-piperazin-1-yl-1-[(4-pyridin-4-yl)phenyl]-1H-indole-3-carboxaldehyde (46 mg, 85%) as a light tan solid. ESI/MS 383 (M+1).

reactant | 4-[3-Formyl-1-[(4-pyridin-4-yl)phenyl]-1H-indol-2-yl]-piperazine-1-carboxylic acid tert-butyl ester | 0.141 mmol, 68 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1N(C2=CC=CC=C2C1C=O)C1=CC=C(C=C1)C1=CC=NC=C1 | C29H30N4O3
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 2-piperazin-1-yl-1-[(4-pyridin-4-yl)phenyl]-1H-indole-3-carboxaldehyde | 46 mg, 85% | N1(CCNCC1)C=1N(C2=CC=CC=C2C1C=O)C1=CC=C(C=C1)C1=CC=NC=C1 | C24H22N4O
